US09315521B2
A mixture of 2-chloro-6-fluorobenzaldehyde (5.0 g, 31.5 mmol), 1-ethylpiperazine (8.0 mL, 63.0 mmol), and potassium carbonate (5.0 g, 36.2 mmol) in anhydrous DMF (30 mL) was stirred at 90° C. overnight. DMF was evaporated. The viscous mixture was poured in water (200 mL). The mixture was extracted with diethyl ether (3×100 mL). The organic extracts were combined, dried over MgSO4, filtered, evaporated, and dried in vacuo, affording 2-chloro-6-(4-ethylpiperazin-1-yl)benzaldehyde (7.4 g, 93% yield). The product was used without further purification.

reactant | 2-chloro-6-fluorobenzaldehyde | 31.5 mmol, 5.0 g | ClC1=C(C=O)C(=CC=C1)F | C7H4ClFO
reactant | 1-ethylpiperazine | 63.0 mmol, 8.0 mL | C(C)N1CCNCC1 | C6H14N2
reactant | potassium carbonate | 36.2 mmol, 5.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | 2-chloro-6-(4-ethylpiperazin-1-yl)benzaldehyde | 7.4 g, 93% yield | ClC1=C(C=O)C(=CC=C1)N1CCN(CC1)CC | C13H17ClN2O
